US06369053B1
A mixture of methyl 2-bromoquinolinecarboxylate (7.2 g) and NaOH (1.1 g) in 15 mL of methanol and 15 mL of water is stirred at 50° C. until TLC indicates the disappearance of starting material. After cooling, the methanol is evaporated and the mixture is treated with 28 mL of 1N HCl, the solid is collected by filtration and dried to afford 6.1 g of 2-bromoquinoline-4-carboxylic acid.

reactant | methyl 2-bromoquinolinecarboxylate | 7.2 g | BrC1(NC2=CC=CC=C2C=C1)C(=O)OC | C11H10BrNO2
reactant | NaOH | 1.1 g | [OH-].[Na+]
reactant | methanol | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 2-bromoquinoline-4-carboxylic acid | 6.1 g | BrC1=NC2=CC=CC=C2C(=C1)C(=O)O | C10H6BrNO2
